US06528525B1
(a) Ethyl 3-(4-benzyloxyphenyl)-2-(4-t-butylphenoxy)propionate
In a similar manner to that described in Example 122, a reaction was carried out using ethyl 3-(4-benzyloxyphenyl)lactate (5.00 g), which is the product of Reference example 1(b), 4-t-butylphenol (2.50 g), triphenylphosphine (5.24 g) and a solution of diethylazodicarboxylate in toluene (40%, 8.80 ml) and the reaction mixture was treated to afford the desired compound (3.00 g) as a colorless oil.

reactant | ethyl 3-(4-benzyloxyphenyl)lactate | 5.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)O | C18H20O4
reactant | 4-t-butylphenol | 2.50 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | triphenylphosphine | 5.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | toluene | 8.80 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3-(4-benzyloxyphenyl)-2-(4-t-butylphenoxy)propionate | 3.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)C(C)(C)C | C28H32O4
